US08383616B2
Step i: 1-(5-chloro-2,4-dihydroxyphenyl)-ethanone
Acetic acid (17.5 ml) was added dropwise to a suspension of 4-chlorobenzene-1,3-diol (20 g, 0.138 mol) in BF3.OEt2 (100 ml) under a nitrogen atmosphere. The reaction mixture was stirred at 90° C. for 3.5 h and then allowed to cool to RT, causing a solid to precipitate. The mixture was poured into a 10% w/v aqueous sodium acetate solution (350 ml). This mixture was then stirred vigorously for 2.5 h to afford a light brown solid, which was filtered, washed with water, and air-dried overnight to afford the title compound 1-(5-chloro-2,4-dihydroxyphenyl)-ethanone (11.3 g, 44%).

reactant | Acetic acid | 17.5 ml | C(C)(=O)O | C2H4O2
reactant | 4-chlorobenzene-1,3-diol | 0.138 mol, 20 g | ClC1=C(C=C(C=C1)O)O | C6H5ClO2
solvent | BF3.OEt2 | 100 ml | B(F)(F)F.CCOCC
product | 1-(5-chloro-2,4-dihydroxyphenyl)-ethanone | 11.3 g, 44% | ClC=1C(=CC(=C(C1)C(C)=O)O)O | C8H7ClO3
